US20010007764A1
Boc-Lys(Cbz)-OH (25 g) was dissolved in dichloromethane/methanol=9/1 v/v (500 ml). TBTU (21.1 g) was added and the solution adjusted to pH 8 by addition of triethylamine. The reaction mixture was stirred for 1 h at room temperature. The mixture was washed successively with cold 2N hydrogen chloride solution, water, 5% sodium hydrogencarbonate, and water. The organic layer was dried over sodium sulfate, filtered and evaporated. The residu was purified by chromatography on silica (eluent: ethyl acetate/heptane=1/4 v/v) to yield Boc-Lys(Cbz)-OMe (26.7 g). TLC: Rf=0.79, silica gel, ethyl acetate/heptane=3/1 v/v.

reactant | Boc-Lys(Cbz)-OH | 25 g | N([C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)O)C(=O)OC(C)(C)C | C19H28N2O6
reactant | TBTU | 21.1 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | dichloromethane methanol | ClCCl.CO
product | Boc-Lys(Cbz)-OMe | 26.7 g | N([C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)OC)C(=O)OC(C)(C)C | C20H30N2O6
